US07166625B2
3-[2-(1-pyrrolidinyl)-2-oxoethyl]-1,2-dimethylimidazolium chloride
A mixture of N-(chloroacetyl)pyrrolidine (2.0 g, 13.55 mmol) and 1,2-dimethylimidazole (1.3 g, 13.5 mmol) were heated neat at 110° C. for 3 hours. To the reaction mixture was added acetonitrile (5 mL), and heating was continued for 20 minutes. Tert-butyl methylether (10 mL) was added, and the resulting mixture was allowed to stand at room temperature overnight. The product was recovered by filtration, and washed with a mixture of tert-butyl methyl ether and acetonitrile (7:3 v/v, 50 mL). The crude product was recrystallized from a mixture of acetonitrile and tert-butyl methyl ether to obtain 1.23 g (41%) of a white solid; mp 191–193° C.

reactant | N-(chloroacetyl)pyrrolidine | 13.55 mmol, 2.0 g | ClCC(=O)N1CCCC1 | C6H10ClNO
reactant | 1,2-dimethylimidazole | 13.5 mmol, 1.3 g | CN1C(=NC=C1)C | C5H8N2
reactant | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | Tert-butyl methylether | 10 mL | C(C)(C)(C)OC | C5H12O
product | 3-[2-(1-pyrrolidinyl)-2-oxoethyl]-1,2-dimethylimidazolium chloride | 1.23 g, 41% | [Cl-].N1(CCCC1)C(CN1C(=[N+](C=C1)C)C)=O | InChI=1S/C11H18N3O.ClH/c1-10-12(2)7-8-14(10)9-11(15)13-5-3-4-6-13;/h7-8H,3-6,9H2,1-2H3;1H/q+1;/p-1
